US06765012B2
4-(3-Diethylamino-propoxy)-phenylamine
A solution of diethyl-[3-(4-nitro-phenoxy)-propyl]-amine (15.2 g, 60.4 mmol) is dissolved in absolute ethanol (350 mL) and to this solution is added hydrazine monohydrate (18 mL, 6 equiv.) followed by the addition of a small portion of Raney nickel. The reaction mixture is heated to 50° C. with stirring for 3 h until all gas evolution has ceased. The reaction mixture is filtered through celite to remove the Raney nickel. The filtrate is concentrated under reduced pressure to give the named compound as a greenish brown oil (quantitative). This material is carried on in subsequent steps without purification.

reactant | diethyl-[3-(4-nitro-phenoxy)-propyl]-amine | 60.4 mmol, 15.2 g | C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H20N2O3
reactant | hydrazine monohydrate | 18 mL, 6 equiv. | O.NN
solvent | ethanol | 350 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-(3-Diethylamino-propoxy)-phenylamine | C(C)N(CCCOC1=CC=C(C=C1)N)CC | C13H22N2O
